US06100272
Ethyl 2'-methoxymethyl-4'-(2-oxopyrrolidin-1-yl)biphenyl-4-carboxylate
Ethyl 2'-hydroxymethyl-4'-(2-oxopyrrolidin-1-yl)biphenyl-4-carboxylate (D54) (0.51 g, 1.5 mmol) was stirred in dry DMF (8 ml) under argon. Sodium hydride (80% dispersion, 0.07 g, 2.3 mmol) was added, and the resulting suspension was stirred for 10 min. Iodomethane (0.19 ml, 3.0 mmol) was added; the mixture was stirred for 30 min, diluted with ethyl acetate, washed with water and brine, dried (Na2SO4) and evaporated to a yellow gum. Chromatography on silica gel, eluting with 0-50% ethyl acetate/dichloromethane, gave the title compound (0.34 g, 64%) as a colourless gum, solidifying on standing. A little methyl ester was also present.

reactant | Ethyl 2'-hydroxymethyl-4'-(2-oxopyrrolidin-1-yl)biphenyl-4-carboxylate | 1.5 mmol, 0.51 g | OCC1=C(C=CC(=C1)N1C(CCC1)=O)C1=CC=C(C=C1)C(=O)OCC | C20H21NO4
reactant | Sodium hydride | 2.3 mmol, 0.07 g | [H-].[Na+]
reactant | Iodomethane | 3.0 mmol, 0.19 ml | IC | CH3I
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 2'-methoxymethyl-4'-(2-oxopyrrolidin-1-yl)biphenyl-4-carboxylate | 0.34 g, 64% | COCC1=C(C=CC(=C1)N1C(CCC1)=O)C1=CC=C(C=C1)C(=O)OCC | C21H23NO4
